US08017775B2
Methyl 5-amino-2-(4-fluoro-2-hydroxyphenyl)-3-methylbenzoate (Reference Compound No. 1-4-(5))
Methyl 2-(2-benzyloxy-4-fluorophenyl)-3-methyl-5-nitrobenzoate (Reference Compound No. 1-4-(4), 10.7 g, 27.0 mmol) was dissolved in a mixture of methanol (50 mL) and tetrahydrofuran (50 mL), then 10% palladium on charcoal (1.00 g) was added thereto, and then the reaction mixture was stirred under hydrogen atmosphere (3 kgf/cm2) at room temperature for 3 days. After the mixture was filtered, the solvent was removed under reduced pressure. Ethyl acetate was added to the obtained residue, and then filtered to give the titled reference compound (4.79 g) as a pale gray solid. (Yield 64%)

reactant | Methyl 2-(2-benzyloxy-4-fluorophenyl)-3-methyl-5-nitrobenzoate | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C1=C(C(=O)OC)C=C(C=C1C)[N+](=O)[O-] | C22H18FNO5
solvent | methanol | 50 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 1.00 g | [Pd] | Pd
product | Methyl 5-amino-2-(4-fluoro-2-hydroxyphenyl)-3-methylbenzoate | 4.79 g, Yield 64% | NC=1C=C(C(=C(C(=O)OC)C1)C1=C(C=C(C=C1)F)O)C | C15H14FNO3
